US04051152
1-Acetoxy-7-oxo-7,8,9,10-tetrahydro-3,6,6,9-tetramethyl-6H-dibenzo[ b,d]pyran
To a stirring mixture of 1-acetoxy-7,8,9,10-tetrahydro-3,6,6,9-tetramethyl-6H-dibenzo[ b,d]pyran (601 mg., 2 mmole) in 7 ml. of 50% acetic acid and 5 ml. of chloroform held under a nitrogen atmosphere, was added dropwise a solution of ceric ammonium nitrate (4.39 g., 8 mmole) in 12 ml. of 50% acetic acid. After the addition was completed, the reaction mixture was stirred over a steam bath. After 3 hours, the mixture was poured onto ice with stirring. The product was extracted into ether, washed to neutrality with 5% NaHCO3, washed with water, dried over Na2SO4 and concentrated under reduced pressure. Elution of the product from a mganesium silicate column with graded ether/petroleum ether gave 120 mg. (14.2%) of the desired product which showed a blue fluorescent spot on tlc at Rf 0.67 (silica gel, 40% EtOAc/hexane). Ir(neat) 1770(m), 1740(s), 1660(s), 1640(s), 1620(m) CM-1 ; nmr (CDCl3) δ 1.08(d,3H, J=4Hz), 1.38(S,3H), 1.7(S,3H), 2.3(S,6H), 1.0-3.0(broad m,5H), 6.5(S,1H), 6.62(S,1H).

reactant | 1-acetoxy-7,8,9,10-tetrahydro-3,6,6,9-tetramethyl-6H-dibenzo[ b,d]pyran | 2 mmole, 601 mg | C(C)(=O)OC1=CC(=CC=2OC(C3=C(C21)CC(CC3)C)(C)C)C | C19H24O3
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 1-Acetoxy-7-oxo-7,8,9,10-tetrahydro-3,6,6,9-tetramethyl-6H-dibenzo[ b,d]pyran | 14.2% | C(C)(=O)OC1=CC(=CC=2OC(C3=C(C21)CC(CC3=O)C)(C)C)C | C19H22O4
